US04777259
In 100 ml of water were dissolved 2.0 g of 5-(3-methyl-5-isoxazolylmethylene)rhodanine-3-acetic acid and 1.0 g of sodium hydrogencarbonate. To the solution was added 1.0 g of 10% palladium charcoal and the mixture was subjected to a reduction at room temperature and under a hydrogen pressure of 3 atm. After completion of the reaction, the catalyst was removed by filtration. To the filtrate was added dilute hydrochloric acid to adjust the pH to 1. The precipitate was separated by filtration and recrystallized from water, giving 0.6 g of 5-(3-methyl-5-isoxazolylmethyl)rhodanine- 3-acetic acid (Compound 1 g) having a melting point of 235° to 240° C. (decomposition) in a yield of 30 %.

reactant | 5-(3-methyl-5-isoxazolylmethylene)rhodanine-3-acetic acid | 2.0 g | CC1=NOC(=C1)C=C1C(N(C(S1)=S)CC(=O)O)=O | C10H8N2O4S2
reactant | sodium hydrogencarbonate | 1.0 g | C(O)([O-])=O.[Na+]
solvent | water | 100 ml | O | H2O
catalyst | palladium charcoal | 1.0 g | [Pd] | Pd
product | 5-(3-methyl-5-isoxazolylmethyl)rhodanine- 3-acetic acid | 0.6 g, yield of 30 % | CC1=NOC(=C1)CC1C(N(C(S1)=S)CC(=O)O)=O | C10H10N2O4S2
